US04781750
Preparation of N,N-Dimethyl-Beta-BenzoyloxyAlphaethoxycarbonyl-2,4-Dichlorocinnamamide
To a well stirred mixture of 12.4 g of N,N-dimethylalphaethoxycarbonyl-beta-hydroxy-2,4-dichlorocinnamamide, 4.0 g of triethylamine and 150 ml of dry ether at 4° C. was added dropwise benzoyl chloride at such a rate that the temperature did not exceed 5° C. The reaction was allowed to warm up to room temperature, stirred at this temperature for 2 hours, the cooled again to 4° C. The solids were filtered off and the filtrate concentrated under reduced pressure to yield 12.0 g of a white solid. The solid was crystallized from ether/hexane to yield 8.0 g of the desired product, m.p. 106° C.

reactant | N,N-dimethylalphaethoxycarbonyl-beta-hydroxy-2,4-dichlorocinnamamide | 12.4 g | CN(C(C(=C(C1=C(C=C(C=C1)Cl)Cl)O)C(=O)OCC)=O)C | C14H15Cl2NO4
reactant | triethylamine | 4.0 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | ether | 150 ml | CCOCC | C4H10O
product | N,N-Dimethyl-Beta-BenzoyloxyAlphaethoxycarbonyl-2,4-Dichlorocinnamamide | 12.0 g | CN(C(C(=C(C1=C(C=C(C=C1)Cl)Cl)OC(C1=CC=CC=C1)=O)C(=O)OCC)=O)C | C21H19Cl2NO5
